US07098203B2
Step B: 3,3-ethylenedioxy-1-phenylcyclohexanecarbonitrile
The mixture of 3-oxo-1-phenylcyclohexanecarbonitrile (2.62 g), ethylene glycol (3.65 mL) and pyridinium p-toluene sulfonate (1 spatula) in benzene (40 mL) was stirred at 111° C. with Dean-Stark apparatus overnight. After cooling down to room temperature, the mixture was washed with saturated sodium bicarbonate and the organic layer was separated. The aqueous layer was extracted with dichloromethane 3 times and the combined organic layers were dried over magnesium sulfate, filtered and concentrated under vacuum. The crude material was purified by Flash Chromatography with from 25% ethyl acetate/75% hexane to 30% ethyl acetate/70% hexane over 20 minutes. The title compound was obtained as a white solid (1.66 g, 48% yield in 2 steps). 1H NMR (400 MHz, CDCl3) δ 1.56 (1H, dt, J=4, 16 Hz), 1.70–1.79 (1H, m), 1.89–1.96 (3H, m), 2.06–2.28 (3H, m), 3.89–3.97 (2H, m), 4.03–4.12 (2H, m), 7.28–7.32 (1H, m), 7.36–7.39 (2H, m), 7.48–7.51 (2H, m). HPLC purity (retention time): 95% (1.62 min, method C). MS: 266.37 (M+Na+).

reactant | 3-oxo-1-phenylcyclohexanecarbonitrile | 2.62 g | O=C1CC(CCC1)(C#N)C1=CC=CC=C1 | C13H13NO
reactant | ethylene glycol | 3.65 mL | C(CO)O | C2H6O2
reactant | pyridinium p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 3,3-ethylenedioxy-1-phenylcyclohexanecarbonitrile | 48% yield | C1OC2(CC(CCC2)(C#N)C2=CC=CC=C2)OC1 | C15H17NO2
